US08877782B2
2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-5-methylsulfanyl-pyridine
To a solution of 5-bromo-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine (300 mg, 0.87 mmol) in THF (3 mL) was added n-butyllithium (1.6 M, 543.1 μL, 0.87 mmol) and the resulting mixture stirred at −78° C. for 30 min. Then methyl disulfide (78.7 μL, 0.87 mmol) was added and the resulting mixture stirred overnight. The mixture was then evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate 8:2 to 1:3) afforded the title compound (136 mg, 50%) as a light yellow oil. MS: m/e=313.1 [M+H]+.

reactant | 5-bromo-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine | 0.87 mmol, 300 mg | BrC=1C=CC(=NC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C16H13BrN2O2
reactant | n-butyllithium | 0.87 mmol, 1.6 M, 543.1 μL | C(CCC)[Li]
reactant | methyl disulfide | 0.87 mmol, 78.7 μL | CSSC | C2H6S2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-5-methylsulfanyl-pyridine | 136 mg, 50% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C=C1)SC | C17H16N2O2S
